US08492582B2
To a solution mixture of the obtained tert-butyl 2-(2-(benzyloxy)-5-phenoxybenzamido)-4-phenylbenzoate (0.049 g) in methanol (1.5 mL) and ethyl acetate (1.5 mL), 10% palladium-carbon (0.025 g) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours. To the reaction mixture, 10% palladium-carbon (0.050 g) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours. Ethyl acetate was added to the reaction mixture, and the insoluble substance was removed by filtration. The solvent was evaporated under reduced pressure, and hexane was added to the obtained residue. The solid substance was collected by filtration to obtain 0.017 g of tert-butyl 2-(2-hydroxy-5-phenoxybenzamido)-4-phenylbenzoate as a white solid.

reactant | tert-butyl 2-(2-(benzyloxy)-5-phenoxybenzamido)-4-phenylbenzoate | 0.049 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OC1=CC=CC=C1 | C37H33NO5
solvent | methanol | 1.5 mL | CO | CH4O
solvent | ethyl acetate | 1.5 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 0.025 g | [C].[Pd]
catalyst | palladium-carbon | 0.050 g | [C].[Pd]
product | tert-butyl 2-(2-hydroxy-5-phenoxybenzamido)-4-phenylbenzoate | 0.017 g | OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OC1=CC=CC=C1 | C30H27NO5
